US08293768B2
Synthesis of 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained in 86% yield: 1H NMR (300 MHz, DMSO-d6) δ 10.89 (s, 1H), 7.56 (d, J=9.0 Hz, 1H), 7.34 (d, J=9.0 Hz, 1H), 7.20 (s, 1H), 7.09-695 (m, 2H), 3.98 (t, J=6.0 Hz, 2H), 3.61-3.50 (m, 4H), 2.94 (t, J=6.0 Hz, 2H), 2.49 (s, 3H); MS (ES+) m/z 371.1 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | N1C=C(C2=CC=CC=C12)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C20H22N4O3S
product | 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 86% yield | N1C=C(C2=CC=CC=C12)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C18H18N4O3S
